US09375009B2
To a solution of 5-(trifluoromethyl)-2-vinylphenyl methanesulphonate (1.05 g) in acetonitrile (10 ml) were added sodium hydrogencarbonate (2.55 g) and 3-chloro-N-hydroxy-2-oxopropanimidoyl chloride (0.60 g) at room temperature under argon. The reaction mixture was stirred at room temperature for one hour. The solids were filtered off with suction and the filtrate was concentrated under reduced pressure. The residue was stirred with heptane to obtain 2-[3-(chloroacetyl)-4,5-dihydro-1,2-oxazol-5-yl]-5-(trifluoromethyl)phenyl methanesulphonate (1.33 g, 86% pure, 75%).

reactant | 5-(trifluoromethyl)-2-vinylphenyl methanesulphonate | 1.05 g | CS(=O)(=O)OC1=C(C=CC(=C1)C(F)(F)F)C=C | C10H9F3O3S
reactant | sodium hydrogencarbonate | 2.55 g | C(O)([O-])=O.[Na+]
reactant | 3-chloro-N-hydroxy-2-oxopropanimidoyl chloride | 0.60 g | ClCC(C(=NO)Cl)=O | C3H3Cl2NO2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-[3-(chloroacetyl)-4,5-dihydro-1,2-oxazol-5-yl]-5-(trifluoromethyl)phenyl methanesulphonate | 1.33 g | CS(=O)(=O)OC1=C(C=CC(=C1)C(F)(F)F)C1CC(=NO1)C(CCl)=O | C13H11ClF3NO5S
